US07449456B2
2-Methyl-2H-isoquinolin-1-one was subjected to catalytic hydrogenation in a hydrogen atmosphere in ethanol in the presence of palladium/carbon. The resulting compound and concentrated nitric acid were allowed to undergo the reaction in concentrated sulfuric acid. The resulting compound was subjected to catalytic hydrogenation in the same manner as shown in Reference Example 3 to obtain 7-amino-2-methyl-3,4-dihydro-2H-isoquinolin-1-one. NMR2: 2.88 (2H, t, J=6.8 Hz), 3.13 (3H, s), 6.95 (1H, d, J=8.0 Hz).

reactant | 2-Methyl-2H-isoquinolin-1-one | CN1C(C2=CC=CC=C2C=C1)=O | C10H9NO
reactant | hydrogen | [H][H] | H2
reactant | nitric acid | [N+](=O)(O)[O-] | HNO3
solvent | ethanol | C(C)O | C2H6O
solvent | sulfuric acid | S(O)(O)(=O)=O | H2O4S
catalyst | palladium/carbon | [Pd] | Pd
product | 7-amino-2-methyl-3,4-dihydro-2H-isoquinolin-1-one | NC1=CC=C2CCN(C(C2=C1)=O)C | C10H12N2O
